US06706707B2
2-(3-Methoxy-phenylethynyl)-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester
The title compound, MS: m/e=299.3 (M+H+) was prepared in accordance with the general method of example 1b from 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester and 1-ethynyl-3-methoxy-benzene.

reactant | 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)Br)C | C8H11BrN2O2
reactant | 1-ethynyl-3-methoxy-benzene | C(#C)C1=CC(=CC=C1)OC | C9H8O
product | 2-(3-Methoxy-phenylethynyl)-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)C#CC1=CC(=CC=C1)OC)C | C17H18N2O3
